US04952574
Using the general method of Example I Part A, 10.4 g (0.032 mole) of 5-hydroxy-N-(2-pyridylmethyl)-2-(2,2,2- trifluoroethoxy)benzamide was reacted with 7.45 g (0.045 mole) of ethyl bromoacetate to give 5.0 g of ivory powdery 5-(ethoxycarbonylmethoxy)-N-(2-pyridylmethyl)-2-(2,2,2- trifluoroethoxy)benzamide, m.p. 73°-76° C.

reactant | 5-hydroxy-N-(2-pyridylmethyl)-2-(2,2,2- trifluoroethoxy)benzamide | 0.032 mole, 10.4 g | OC=1C=CC(=C(C(=O)NCC2=NC=CC=C2)C1)OCC(F)(F)F | C15H13F3N2O3
reactant | ethyl bromoacetate | 0.045 mole, 7.45 g | BrCC(=O)OCC | C4H7BrO2
product | 5-(ethoxycarbonylmethoxy)-N-(2-pyridylmethyl)-2-(2,2,2- trifluoroethoxy)benzamide | C(C)OC(=O)COC=1C=CC(=C(C(=O)NCC2=NC=CC=C2)C1)OCC(F)(F)F | C19H19F3N2O5
